US07446199B2
To 3-[3-Dimethylamino-2-(2-fluoro-phenyl)-acryloyl]-6-methyl-1, 6-dihydro-pyrrolo[2,3-c]pyridin-7-one (79 mg, 0.22 mmol) in tetrahydrofuran (20 mL) was added sodium hydrogen carbonate (19 mg, 0.0.27 mmol) and hydroxylamine Hydrochloride (23 mg, 0.27 mmol) and the mixture was heated to 80C. After 5 hr p-toluenesulfonic acid (catalytic amount) was added and the reaction mixture was heated for an additional 1 hr. The solution was cooled, diluted with ethyl acetate, washed with brine, dried (Na2SO4). Concentration gave an amber oil. Preparative reverse phase chromatography afforded 3-[4-(2-Fluoro-phenyl)-isoxazol-5-yl]-6-methyl-1,6-dihydro-pyrrolo[2,3-c]pyridin-7-one (18.6 mg, 25% yield).

reactant | 3-[3-Dimethylamino-2-(2-fluoro-phenyl)-acryloyl]-6-methyl-1, 6-dihydro-pyrrolo[2,3-c]pyridin-7-one | 0.22 mmol, 79 mg | CN(C=C(C(=O)C1=CNC=2C(N(C=CC21)C)=O)C2=C(C=CC=C2)F)C | C19H18FN3O2
reactant | sodium hydrogen carbonate | 19 mg | C(O)([O-])=O.[Na+]
reactant | hydroxylamine Hydrochloride | 0.27 mmol, 23 mg | Cl.NO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-[4-(2-Fluoro-phenyl)-isoxazol-5-yl]-6-methyl-1,6-dihydro-pyrrolo[2,3-c]pyridin-7-one | 18.6 mg, 25% yield | FC1=C(C=CC=C1)C=1C=NOC1C1=CNC=2C(N(C=CC21)C)=O | C17H12FN3O2
